US07071193B2
(a) 2,6-bis[[(3-chloro-2-fluorophenyl)methyl]thio]-4,5-pyrimidinediamine
To a solution of potassium hydroxide powder (2.5 g) in methanol (80 ml) was added first 5,6-diamino-2,4-pyrimidinedithiol (3.6 g) followed by 3-chloro-2-fluorobenzyl bromide (6.3 g). The reaction mixture was stirred for one hour at room temperature then poured into water (180 ml), giving a brown precipitate. This was isolated by filtration, washing with isopropyl alcohol and diethyl ether, to give the subtitled compound as a pale brown solid (5.4 g).

reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | 5,6-diamino-2,4-pyrimidinedithiol | 3.6 g | NC=1C(=NC(=NC1N)S)S | C4H6N4S2
reactant | 3-chloro-2-fluorobenzyl bromide | 6.3 g | ClC=1C(=C(CBr)C=CC1)F | C7H5BrClF
reactant | water | 180 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 2,6-bis[[(3-chloro-2-fluorophenyl)methyl]thio]-4,5-pyrimidinediamine | 5.4 g | ClC=1C(=C(C=CC1)CSC1=NC(=C(C(=N1)N)N)SCC1=C(C(=CC=C1)Cl)F)F | C18H14Cl2F2N4S2
